**************************************************
* Manufacturer: 		Wurth Elektronik
* Kinds:			 SMD Common Mode Line Filter
* Matchcode: 		WE-SCC
* Library Type:		LTspice
* Version: 		rev18a
* Created/modified by:	Fredo Huang
* Date and Time   :		2018-01-03
* Team: 			eiSos EDA Service
* Contact: 		libraries@we-online.com
**************************************************
.SUBCKT  SCC    1  2  3  4  PARAMS:
R_R1         1 N00270  {Rdc} TC=0,0 
R_R2         2 N00427  {Rdc} TC=0,0 
R_R3         N00304 N00289  {dR5} TC=0,0 
R_R4         N00270 N00289  {dR6} TC=0,0 
R_R5         N00427 N00408  {dR6} TC=0,0 
R_R6         N00423 N00408  {dR5} TC=0,0 
L_L1         N00270 N00285  {dL4}  
L_L2         N00285 N00289  {dL4}  
L_L3         N00369 N00427  {dL4}  
L_L4         N00408 N00369  {dL4}  
C_C1         N00270 N00304  {dC4}  TC=0,0 
C_C2         N00427 N00423  {dC4}  TC=0,0 
C_C3         N00369 N00285  {ck}  TC=0,0 
L_L5         N00289 4  {L1}  
L_L8         N00408 3  {L1}  
R_R7         N00289 4  {R1} TC=0,0 
C_C4         N00289 4  {C1}  TC=0,0 
R_R10         N00408 3  {R1} TC=0,0 
C_C7         N00408 3  {C1}  TC=0,0 
Kn_K1         L_L1 L_L2 
+ L_L3 L_L4   0.9999
Kn_K2         L_L5 L_L8     1
R_R13         N00369 N00285  100g TC=0,0 

.ends SCC

*************
.SUBCKT  7345_744281100_10u  1  2  3  4
X1  1  2  3  4  SCC  PARAMS:
+ ck=0.075n
+ dC4=1n
+ dL4=5n
+ dR5=128
+ dR6=1000
+ Rdc=0.42
+ L1=12u
+ C1=2.2p
+ R1=20500
.ends  7345_744281100_10u
************
.SUBCKT  7345_744281101_100u  1  2  3  4
X1  1  2  3  4  SCC  PARAMS:
+ ck=2.59424871509595e-010
+ dC4=3.90749966372341e-007
+ dL4=6.54822049179388e-008
+ dR5=107.99036952448
+ dR6=1153.7966609136363
+ Rdc=0.93
+ L1=9.5E-5
+ C1=2.8E-12
+ R1=1.05e5
.ends  7345_744281101_100u
*************
.SUBCKT  7345_744281471_470u  1  2  3  4
X1  1  2  3  4  SCC  PARAMS:
+ ck=3.67863759838795e-011
+ dC4=2.01445437944939e-008
+ dL4=6.80562709915258e-009
+ dR5=693.907429910977
+ dR6=1268.24951963994
+ Rdc=4.085
+ L1=4.15E-4
+ C1=3.05E-12
+ R1=2.3e5
.ends  7345_744281471_470u
*************
.SUBCKT  1260_744282010_1u  1  2  3  4
X1  1  2  3  4  SCC  PARAMS:
+ ck=2.3961850087583e-011
+ dC4=3.2753790145783e-006
+ dL4=3.7872128552487e-009
+ dR5=1231.728842566627
+ dR6=145
+ Rdc=0.0095
+ L1=0.96E-6
+ C1=1.7E-12
+ R1=3.3e3
.ends  1260_744282010_1u
*************
.SUBCKT  1260_744282100_10u  1  2  3  4
X1  1  2  3  4  SCC  PARAMS:
+ ck=4.09424871509595e-011
+ dC4=3.90749966372341e-006
+ dL4=1.549179388e-008
+ dR5=905.99036952448
+ dR6=300
+ Rdc=0.236
+ L1=0.96E-5
+ C1=2.6E-12
+ R1=17.7e3
.ends  1260_744282100_10u
*************
.SUBCKT  1260_744282101_100u  1  2  3  4
X1  1  2  3  4  SCC  PARAMS:
+ ck=1.29424871509595e-010
+ dC4=3.90749966372341e-006
+ dL4=0.449179388e-007
+ dR5=1905.99036952448
+ dR6=190
+ Rdc=0.58
+ L1=0.88E-4
+ C1=3.25E-12
+ R1=84e3
.ends  1260_744282101_100u
*************
.SUBCKT  1260_744282102_1m  1  2  3  4
X1  1  2  3  4  SCC  PARAMS:
+ ck=3.29424871509595e-010
+ dC4=3.90749966372341e-009
+ dL4=1.349179388e-006
+ dR5=3205.99036952448
+ dR6=298
+ Rdc=2.575
+ L1=0.46E-3
+ C1=8.46E-12
+ R1=152e3
+ L2=0.46E-3
+ C2=8.46E-12
+ R2=152e3
.ends  1260_744282102_1m
*************
.SUBCKT  1210_744284100_10u  1  2  3  4
X1  1  2  3  4  SCC  PARAMS:
+ ck=8.67863759838795e-011
+ dC4=2.01445437944939e-008
+ dL4=7.50562709915258e-009
+ dR5=1260.907429910977
+ dR6=206.24951963994
+ Rdc=0.0293
+ L1=0.9E-5
+ C1=1.66E-12
+ R1=24e3
.ends  1210_744284100_10u
*************
.SUBCKT  1210_744284101_100u  1  2  3  4
X1  1  2  3  4  SCC  PARAMS:
+ ck=2.67863759838795e-010
+ dC4=2.01445437944939e-008
+ dL4=2.0562709915258e-008
+ dR5=5260.907429910977
+ dR6=226.24951963994
+ Rdc=0.237
+ L1=0.89E-4
+ C1=0.87E-11
+ R1=83e3
.ends  1210_744284101_100u
*************
.SUBCKT  1210_744284102_1m  1  2  3  4
X1  1  2  3  4  SCC  PARAMS:
+ ck=4.57863759838795e-010
+ dC4=2.01445437944939e-006
+ dL4=3.400562709915258e-007
+ dR5=260.907429910977
+ dR6=540.24951963994
+ Rdc=2.355
+ L1=0.45E-3
+ C1=2.1E-11
+ R1=144e3
+ L2=0.45E-3
+ C2=2.1E-11
+ R2=144e3
.ends   1210_744284102_1m
